US09446035B2
Oxalyl chloride (8.67 mmol) followed by DMF (2drops) was added to a solution of 1-methyl piperidine-4-carboxylic acid (XLIII) (5.78 mmol) in DCM and stirred 30 min at room temperature under argon. The volatiles were evaporated under vacuum by avoiding contact with air. Pyridine was added to the residue followed by addition of 3-amino-5-bromopyridine (XL) (5.20 mmol). The solution was further stirred at room temperature for 3 h under argon. The pyridine was evaporated under vacuum. The residue was treated with water, basified by saturated NaHCO3 solution and washed with DCM. The aqueous layer was extracted with n-butanol. The combined organic layer was evaporated. The residue was dissolved in DCM with the addition of few drops of MeOH. The insoluble inorganic solids were filtered off. The filtrate was concentrated under vacuum to get N-(5-bromopyridin-3-yl)-1-methylpiperidine-4-carboxamide (XLIV) as a brown viscous liquid (0.74 g, 43% yield). 1H NMR (DMSO-d6) 1.61-1.69 (m, 2H), 1.77-1.79 (m, 2H), 1.93-1.97 (m, 2H), 2.20 (s, 3H), 2.29-2.35 (m, 1H), 2.84-2.87 (m, 2H), 8.36 (d, J=1.6 Hz, 1H), 8.39 (m, 1H), 8.66 (d, J=1.6 Hz, 1H), 10.33 (s, 1H); ESIMS found C12H16BrN3O m/z 299 (M+H).

reactant | Oxalyl chloride | 8.67 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-methyl piperidine-4-carboxylic acid | 5.78 mmol | CN1CCC(CC1)C(=O)O | C7H13NO2
reactant | 3-amino-5-bromopyridine | 5.20 mmol | NC=1C=NC=C(C1)Br | C5H5BrN2
catalyst | DMF | 2drops | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(5-bromopyridin-3-yl)-1-methylpiperidine-4-carboxamide | 0.74 g, 43% yield | BrC=1C=C(C=NC1)NC(=O)C1CCN(CC1)C | C12H16BrN3O
